US04125397
Example 1 -- Preparation of O-isopropylsulfonyl-alpha-chloro-2,6-dichlorobenzaldoxime
A 3.6 (0.036 mol) sample of triethylamine was added slowly to a cooled mixture (ice bath) of 7.8 g (0.035 mol) alpha-chloro-2,6-dichlorobenzaldoxime (U.S. Pat. No. 3,234,255) and 5.5 g (0.035 mol) isopropylsulfonyl chloride in 125 ml diethyl ether. The reaction was slightly exothermic. The reaction mixture was filtered to remove a small amount of salts and the filtrate was evaporated under reduced pressure to give a yellow oil. The oil was chromatographed through a silica gel column with hexane/dichloromethane elution. O-isopropylsulfonyl-alpha-chloro-2,6-dichlorobenzaldoxime (white solid, m.p. 48°-50° C.) was eluted from the column with dichloromethane. Elemental analysis for C11H12Cl3NO3S showed: %S, calc. 9.3, found 8.1; %Cl, calc. 30.9, found 32.8.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | alpha-chloro-2,6-dichlorobenzaldoxime | 0.035 mol, 7.8 g | ClC(C1=C(C=CC=C1Cl)Cl)=NO | C7H4Cl3NO
reactant | isopropylsulfonyl chloride | 0.035 mol, 5.5 g | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | diethyl ether | 125 ml | C(C)OCC | C4H10O
product | O-isopropylsulfonyl-alpha-chloro-2,6-dichlorobenzaldoxime | C(C)(C)S(=O)(=O)ON=C(C1=C(C=CC=C1Cl)Cl)Cl | C10H10Cl3NO3S
